US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-((2,5-dioxopyrrolidin-1-yl)methyl)oxazole-4-carboxamide
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(chloromethyl)oxazole-4-carboxamide (0.132 g, 0.327 mmol) and potassium carbonate (0.068 g, 0.490 mmol) were dissolved in dry DMF under nitrogen atmosphere. Succinimide (0.036 g, 0.359 mmol) was added and the mixture was stirred in RT for 4.5 h. DCM was added and the organic phase was washed with water. The product was triturated using diethyl ether, DCM and finally by Flash-chromatography. Yield 16.92%. %. 1H-NMR (400 MHz; CDCl3): δ 1.23 (d, 3H), 2.83 (s, 4H), 4.29 (dd, 1H), 4.39 (dd, 1H), 4.51-4.59 (m, 1H), 4.83 (s, 2H), 6.63 (d, 1H), 7.47 (d, 1H), 7.52 (d, 1H), 7.74 (d, 1H), 7.87 (dd, 1H), 7.98 (d, 1H), 8.11 (s, 1H).

reactant | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(chloromethyl)oxazole-4-carboxamide | 0.327 mmol, 0.132 g | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)CCl | C18H15Cl2N5O2
reactant | potassium carbonate | 0.490 mmol, 0.068 g | C([O-])([O-])=O.[K+].[K+]
reactant | Succinimide | 0.359 mmol, 0.036 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-((2,5-dioxopyrrolidin-1-yl)methyl)oxazole-4-carboxamide | Yield 16.92% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)CN1C(CCC1=O)=O | C22H19ClN6O4
